### PR TITLE
Add elimstore, xor simplification, numbers, theories;  update armv8_p…

### PR DESCRIPTION
**Pull request by ErrWare**
…code to armv8.

### CODE REVIEW

**Review by ErrWare — COMMENTED** [review]
Reviewed for cleanliness.

**Comment by ErrWare** [comment]
Reviewed again.

Some notes:
* Added `From Stdlib` to imports, this breaks backwards compatibility with Coq8.20
* Built all examples in 6m. Tested in Rocq9.1, the latest version supporting `smt`

File: Picinae_auto.v [hunk 1]
```diff
@@ -0,0 +1,613 @@
...
+Proof. symmetry; replace 16 with (2^4);[apply N.shiftl_mul_pow2|];lia. Qed.
+Corollary mp2_shiftl_32_r:
+  forall a, a*32 = a<<5.
+Proof. symmetry; replace 32 with (2^5);[apply N.shiftl_mul_pow2|];lia. Qed.
+Corollary mp2_shiftl_64_r:
+  forall a, a*64 = a<<6.
+Proof. symmetry; replace 64 with (2^6);[apply N.shiftl_mul_pow2|];lia. Qed.
+Corollary mp2_shiftl_2_l:
+  forall a, 2*a = a<<1.
+Proof. symmetry; rewrite N.mul_comm; replace 2 with (2^1);[apply N.shiftl_mul_pow2|];lia. Qed.
```
Comment (CharlesAverill) [inline Picinae_auto.v]: These `replace`s should probably be `change`s to avoid the extra `lia` call.

File: Picinae_auto.v [hunk 2]
```diff
@@ -0,0 +1,613 @@
...
+  forall a, a/16 = a>>4.
+Proof. symmetry; replace 16 with (2^4);[apply N.shiftr_div_pow2|];lia. Qed.
+Corollary mp2_shiftr_32:
+  forall a, a/32 = a>>5.
+Proof. symmetry; replace 32 with (2^5);[apply N.shiftr_div_pow2|];lia. Qed.
+Corollary mp2_shiftr_64:
+  forall a, a/64 = a>>6.
+Proof. symmetry; replace 64 with (2^6);[apply N.shiftr_div_pow2|];lia. Qed.
+
+Corollary mp2_mod_2:
```
Comment (CharlesAverill) [inline Picinae_auto.v]: I don't know how I feel about having these in the context. They will now show up any time I `Search (_ mod 2^_).` which seems clutter-y. Can they not be dispatched with `change 2 with (2^1)` and so on?

File: Picinae_auto.v [hunk 3]
```diff
@@ -0,0 +1,613 @@
...
+  rewrite ?mp2_shiftl_2_r, ?mp2_shiftl_4_r, ?mp2_shiftl_8_r,
+          ?mp2_shiftl_16_r, ?mp2_shiftl_32_r, ?mp2_shiftl_64_r,
+          ?mp2_shiftl_2_l, ?mp2_shiftl_4_l, ?mp2_shiftl_8_l,
+          ?mp2_shiftl_16_l, ?mp2_shiftl_32_l, ?mp2_shiftl_64_l,
+          ?mp2_shiftr_2, ?mp2_shiftr_4, ?mp2_shiftr_8,
+          ?mp2_shiftr_16, ?mp2_shiftr_32, ?mp2_shiftr_64,
+          ?mp2_mod_2, ?mp2_mod_4, ?mp2_mod_8, ?mp2_mod_16,
+          ?mp2_mod_32, ?mp2_mod_64, ?mp2_mod_128, ?mp2_mod_256
+  in * |- *;
+  repeat match goal with
```
Comment (CharlesAverill) [inline Picinae_auto.v:270]: Re: my above comment, seems like here is the perfect place to replace with `mp2_mod_*` corollaries with match rules

File: Picinae_auto.v [hunk 4]
```diff
@@ -0,0 +1,613 @@
...
+  | [H: _ >= 4 |- _] => replace 4 with (2^2) in H by reflexivity
+  | [H: _ >= 8 |- _] => replace 8 with (2^3) in H by reflexivity
+  | [H: _ >= 16 |- _] => replace 16 with (2^4) in H by reflexivity
+  | [H: _ >= 32 |- _] => replace 32 with (2^5) in H by reflexivity
+  | [H: _ >= 64 |- _] => replace 64 with (2^6) in H by reflexivity
+  | [H: _ >= 128 |- _] => replace 128 with (2^7) in H by reflexivity
+  | [H: _ >= 256 |- _] => replace 256 with (2^8) in H by reflexivity
+  end.
+
+Ltac algify :=
```
Comment (CharlesAverill) [inline Picinae_auto.v:305]: My suggested change pattern breaks down here. I want to say there should just be an Ltac that specifically looks for powers of two on the RHS of mods. Maybe that gets out of hand? Idk

File: Picinae_theory.v [hunk 5]
```diff
@@ -372,6 +375,169 @@ Qed.
 End NInduction.
 
 
+Section NArithSupplement.
+Notation "x << y" := (N.shiftl x y) (at level 55, left associativity). (* logical shift-left *)
```
Comment (CharlesAverill) [inline Picinae_theory.v]: Why is this notation duplicated from line 45?

File: Picinae_auto.v (hunk 1 above)
Comment (ErrWare) [reply Picinae_auto.v]: Good change.

File: Picinae_auto.v (hunk 2 above)
Comment (ErrWare) [reply Picinae_auto.v]: I made them local, that will clean up the Search results.  

I considered the Ltac match solution. The straightforward solution requires a match case each for expressions found in the hypotheses and those in the goal.  Further, I don't know how to efficiently check whether expressions are constants, so I'd need a case for each power to reduce rather than a catchall `?a mod ?p` with a check that p is a power of two.  I think the corollary block is cleaner.  If you have an Ltac in mind please suggest it. I can check whether it works.

File: Picinae_auto.v (hunk 4 above)
Comment (ErrWare) [reply Picinae_auto.v:305]: Conversation above.

File: Picinae_auto.v (hunk 3 above)
Comment (ErrWare) [reply Picinae_auto.v:270]: Conversation above.

File: Picinae_theory.v (hunk 5 above)
Comment (ErrWare) [reply Picinae_theory.v]: De-duplicated.

File: Picinae_auto.v (hunk 2 above)
Comment (CharlesAverill) [reply Picinae_auto.v]: Local sounds good!

**Review by svsoman — APPROVED** [review]
lgtm!

**Review by CharlesAverill — APPROVED** [review]
